US04566876
Preparation of 4,6-dimethoxy-1,3-dinitrobenzene
To 20.0 g (0.084 moles) 1,5-dichloro-2,4-dinitrobenzene in 200 ml methanol is added 22.7 g (0.42 moles) sodium methoxide. The mixture is heated to reflux and the reaction is monitored by TLC (ethyl acetate). TLC after approximately 12 hours shows the reaction is complete. The host mixture is poured into 750 ml ice/H2O. The pale yellow precipitate is collected by vacuum filtration and dried in the vacuum oven at 50° C. Yield is 16.3 g (85.7%). Recrystallization using toluene and 1 g decolorizing charcoal yields 11.5 g product, m.p. 153°-155° C.

reactant | 1,5-dichloro-2,4-dinitrobenzene | 0.084 moles, 20.0 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C6H2Cl2N2O4
reactant | sodium methoxide | 0.42 moles, 22.7 g | C[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 ml | CO | CH4O
product | 4,6-dimethoxy-1,3-dinitrobenzene | 11.5 g | COC1=C(C=C(C(=C1)OC)[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O6
